US05773512
Preparation of 4-(4-Bromophenyldimethylsilylmethyloxy)benzyl alcohol (Formula 3-Scheme 1)
Sodium methoxide (4.17 g, 73.4 mmole) was added under argon to a solution of 4-hydroxybenzyl alcohol (8.67 g, 69.9 mmol) in dry DMF (70 mL) and the reaction mixture was stirred for 30 minutes at room temperature. 4-Bromophenyldimethylsilylmethyl-bromide (22.6 g, 73.4 mmol) was added through a canula and the reaction was stirred at RT for 30 minutes and at 65° C. for 45 minutes. The reaction was poured into ice water (250 mL) and extracted with ethyl acetate. The combined extracts were washed with water, 5% sodium bicarbonate and brine and the dried (Na2 SO4). The solution was concentrated to an oil at reduced pressure and purified by flash chromatography (silica gel, 20% ethyl acetate/hexane) to yield the product as a clear, colorless oil (9.23 g, 38%). 1H NMR (400 MHz, CDCl3) 7.48 (dd, 4H), 7.10 (dd, 4H), 4.61 (s, 2H), 3.77 (s, 2H), 0.42 (s, 6H).

reactant | Sodium methoxide | 73.4 mmole, 4.17 g | C[O-].[Na+]
reactant | 4-hydroxybenzyl alcohol | 69.9 mmol, 8.67 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | 4-Bromophenyldimethylsilylmethyl-bromide | 73.4 mmol, 22.6 g | BrC1=CC=C(C=C1)C([SiH](C)C)Br | C9H12Br2Si
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 4-(4-Bromophenyldimethylsilylmethyloxy)benzyl alcohol | 9.23 g, 38% | BrC1=CC=C(C=C1)C(OC1=CC=C(CO)C=C1)[SiH](C)C | C16H19BrO2Si
